US06992087B2
Preparation of 5-(2-chloro-4-methylphenyl)-N-(3,4-dihydro-2H-chromen-4-yl)-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-N-(3,4-dihydro-2H-chromen-4-yl)-3,6-diethylpyrazin-2-amine, ethylene glycol dimethyl ether, 2-chloro-4-methyl phenyl boronic acid and tetrakis(triphenylphosphine) palladium and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.37-7.13, 6.99-6.90, 5.37, 4.64, 4.31, 2.69, 2.54, 2.40, 2.30, 1.29-1.17; HRMS (FAB) calcd for C24H26ClN3O+H 408.1842, found 408.1848. Anal. Calcd for C24H26ClN3O: C, 70.66; H, 6.42; N, 10.30. Found: C, 70.93; H, 6.78; N, 10.01.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-N-(3,4-dihydro-2H-chromen-4-yl)-3,6-diethylpyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCOC2=CC=CC=C12)CC | C17H20BrN3O
reactant | 2-chloro-4-methyl phenyl boronic acid | ClC1=C(C=CC(=C1)C)B(O)O | C7H8BClO2
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
product | 5-(2-chloro-4-methylphenyl)-N-(3,4-dihydro-2H-chromen-4-yl)-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)C)C=1N=C(C(=NC1CC)NC1CCOC2=CC=CC=C12)CC | C24H26ClN3O
